US06716851B2
4-(2,5-Dimethoxyphenylethylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (40 mg, 0.154 mmol) and 2,5-dimethoxyphenylethylamine (28 mg, 0.232 mmol) similar to Example 186 and was isolated as an off white solid (35 mg, 54% yield). 1H NMR (CDCl3): 9.59 (brs, 1H), 8.69 (d, J 4.8 Hz, 1H), 7.37 (dd, J 4.8, 8.4 Hz, 1H), 6.76 (m, 3H), 3.95 (s, 3H), 3.90 (s, 3H), 3.00 (t, 2H), 1.67 (s, 2H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.154 mmol, 40 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2,5-dimethoxyphenylethylamine | 0.232 mmol, 28 mg | COC(CN)C1=CC=CC(=C1)OC | C10H15NO2
product | 4-(2,5-Dimethoxyphenylethylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | COC(CNC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1)C1=CC=CC(=C1)OC | C20H19F3N4O2
